US05120758
2-Hydroxymethyl-1,4-benzodioxane (17.9 g, 107 mmol) is taken up in acetonitrile (200 mL) and treated with dibromotriphenylphosphorane (50 g, 119 mmol). The mixture is stirred for 30 minutes and evaporated. The residue is taken up in a 1:1 mixture of ether/hexane, and triphenylphosphine oxide is removed by filtration. The solvent is removed by evaporation to give 2-bromomethyl-1,4-benzodioxane as a brownish solid. This material is used without further purification.

reactant | 2-Hydroxymethyl-1,4-benzodioxane | 107 mmol, 17.9 g | OCC1COC2=C(O1)C=CC=C2 | C9H10O3
reactant | dibromotriphenylphosphorane | 119 mmol, 50 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-bromomethyl-1,4-benzodioxane | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
